US04333952
1-p-Chlorophenacyl-3,3,3-trichloro-prop-1-ene
1-p-Chlorophenacyl-2-hydroxy-3,3,3-trichloropropane (450 mg) was dissolved in benzene and p-toluene sulphonic acid monohydrate (40 mg) added. The solution was refluxed with a Dean and Stark apparatus and any reaction followed by tlc. After 5 hours refluxing tlc revealed that only starting material was present. The solution was treated with a second portion of p-toluene sulphonic acid (100 mg) and further refluxed for 5 hours. The solution was allowed to stand over 60 hours and evaporated to dryness. tlc Analysis (10% Et.AC./petrol) revealed a new product (Rf 0.8) with no starting material remaining. The solution was taken up in ethyl acetate and passed down a short alumina column (to remove pTSA). Elution with 25% Et.Ac./petrol yielded the product. Yield 200 mg.

reactant | 1-p-Chlorophenacyl-2-hydroxy-3,3,3-trichloropropane | 450 mg | ClC1=CC=C(C(CCC(C(Cl)(Cl)Cl)O)=O)C=C1 | C11H10Cl4O2
reactant | p-toluene sulphonic acid monohydrate | 40 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | p-toluene sulphonic acid | 100 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-p-Chlorophenacyl-3,3,3-trichloro-prop-1-ene | ClC1=CC=C(C(CC=CC(Cl)(Cl)Cl)=O)C=C1 | C11H8Cl4O
